US07323475B2
d) [(1-Dimethylcarbamoyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(4-Benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carbonyl)-amino]-acetic acid benzyl ester (209 mg, 0.42 mmol), Pd/C (100 mg, 10 wt % Pd), EtOAc (10 ml) and MeOH (50 ml) was stirred under a H2-atmosphere at ambient pressure and temperature for 18 h. Then the mixture was filtered through a pad of celite. Celite and filter cake were washed thoroughly with EtOAc and the combined organic phases were concentrated in vacuo to give the title compound as a brown solid (122 mg); MS-(−)-ion: M−1=316.1.

reactant | [(4-Benzyloxy-1-dimethylcarbamoyl-isoquinoline-3-carbonyl)-amino]-acetic acid benzyl ester | 0.42 mmol, 209 mg | C(C1=CC=CC=C1)OC(CNC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)C(N(C)C)=O)=O | C29H27N3O5
reactant | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | MeOH | 50 ml | CO | CH4O
product | [(1-Dimethylcarbamoyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid | 122 mg | CN(C(=O)C1=NC(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)O)C | C15H15N3O5
